US07432266B2
Into a vial was added tert-butyl 4-[4-(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)phenyl]piperazine-1-carboxylate (20.0 mg, 0.0384 mmol) and 1 mL of a 20% (v/v) solution of TFA in CH2Cl2. The reaction was stirred at room temperature for 1 hour and then the solvent was removed under reduced pressure. The residue was dissolved in 10 mL of ethyl acetate and washed once with 10 mL of saturated aqueous NaHCO3. The organic layer was then dried over sodium sulfate and concentrated under reduced pressure to give 13 mg (0.0309 mmol, 80%) of 1-[4-(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)phenyl]piperazine as a yellow oil. LC/MS (EI) tR 2.02 (Method C), m/z 421.2 (M++1). 1H NMR (CDCl3 300 MHz) δ 1.9 (m, 4H); 3.0 (d, 4H); 3.1 (d, 4H); 3.7-3.9 (m, 3H); 3.8 (s, 3H); 4.6 (m, 1H); 6.4 (s, 1H); 6.5 (s, 1H); 6.8 (m, 3H); 7.0 (d, 1H); 7.2 (d, 2H); 7.7 (s, 1H).

reactant | tert-butyl 4-[4-(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)phenyl]piperazine-1-carboxylate | 0.0384 mmol, 20.0 mg | COC1=C(C=C(C=C1)C1=CC=NN1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)O[C@H]1COCC1 | C29H36N4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[4-(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)phenyl]piperazine | 0.0309 mmol, 13 mg, 80% | COC1=C(C=C(C=C1)C1=CC=NN1C1=CC=C(C=C1)N1CCNCC1)O[C@H]1COCC1 | C24H28N4O3
